US05091567
Preparation of 1-aminomethyl-1-cyclohexaneacetic acid hydrochloride
89 g (0.581 mole) 2-Aza-spiro[4,5]decan-3-one are stirred under reflux for 4 hours with semiconcentrated hydrochloric acid. The reaction mixture is cooled to ambient temperature, diluted with water and extracted with methylene chloride for the removal of the starting material. The aqueous phase is evaporated to dryness in a vacuum and the residue obtained is mixed with acetone. Upon standing, 79.85 g, 1-aminomethyl-1-cyclohexaneacetic acid hydrochloride (64.7% of theory) crystallize out; content 99%; m.p. 123° to 127° C.

reactant | 2-Aza-spiro[4,5]decan-3-one | 0.581 mole, 89 g | C1NC(CC12CCCCC2)=O | C9H15NO
reactant | hydrochloric acid | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 1-aminomethyl-1-cyclohexaneacetic acid hydrochloride | Cl.NCC1(CCCCC1)CC(=O)O | InChI=1S/C9H17NO2.ClH/c10-7-9(6-8(11)12)4-2-1-3-5-9;/h1-7,10H2,(H,11,12);1H
